US05140038
4-[2-(4-Aminocarbonylbenzenesulphonylamino)-ethyl]-cyclohexylacetic acid
by saponification of the ethyl 4-[2-(4-cyanobenzenesulphonylamino)-ethyl]-cyclohexylacetate with 2N sodium hydroxide solution in ethanol analogously to Example 2c). Yield 72% of theory; m.p. 172°-174° C. after recrystallisation from isopropanol.

reactant | ethyl 4-[2-(4-cyanobenzenesulphonylamino)-ethyl]-cyclohexylacetate | C(#N)C1=CC=C(C=C1)S(=O)(=O)NCCC1CCC(CC1)CC(=O)OCC | C19H26N2O4S
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4-[2-(4-Aminocarbonylbenzenesulphonylamino)-ethyl]-cyclohexylacetic acid | Yield 72% | NC(=O)C1=CC=C(C=C1)S(=O)(=O)NCCC1CCC(CC1)CC(=O)O | C17H24N2O5S
